US07101880B2
Synthesis of (S)-2-amino-1-(2-phenyl-[1,3]dithian-2-yl)-hexan-1-ol
To {1-[hydroxy-(2-phenyl-[1,3]dithian-2-yl)-methyl]-pentyl}-carbamic acid tert-butyl ester (608 mg, 1.47 mmol) in dioxane (2.7 mL) at 10° C. was added hydrochloric acid (2.7 mL, 4 M in dioxane). The solution was warmed to 23° C. After 3 h, the solution was diluted with toluene (5 mL) and concentrated under reduced pressure. The gummy solid was washed with diethyl ether resulting in the hydrochloride salt of 2-amino-1-(2-phenyl-[1,3]dithian-2-yl)-hexan-1-ol, 414 mg, 82% as a free flowing solid after removal of excess ether under reduced pressure.

reactant | {1-[hydroxy-(2-phenyl-[1,3]dithian-2-yl)-methyl]-pentyl}-carbamic acid tert-butyl ester | 1.47 mmol, 608 mg | C(C)(C)(C)OC(NC(CCCC)C(C1(SCCCS1)C1=CC=CC=C1)O)=O | C21H33NO3S2
reactant | hydrochloric acid | 4 M, 2.7 mL | Cl | ClH
solvent | dioxane | 2.7 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-amino-1-(2-phenyl-[1,3]dithian-2-yl)-hexan-1-ol | NC([C@H](O)C1(SCCCS1)C1=CC=CC=C1)CCCC | C16H25NOS2
